US08492414B2
3-((3-(2-(Benzyloxy)-4-chlorophenyl)-1,2,4-thiadiazol-5-yl)methoxy)-2,6-difluorobenzamide (X)
To a solution of 3-(2-(benzyloxy)-4-chlorophenyl)-5-(bromomethyl)-1,2,4-thiadiazole (0.33 g, 0.83 mmol) in DMF (10 ml) was added 2,6-difluoro-3-hydroxybenzamide (0.13 g, 0.75 mmol) and potassium carbonate (0.403 g, 2.92 mmol). The reaction mixture was stirred at room temperature for 16 h under nitrogen atmosphere. After the completion of the reaction (TLC monitoring), the reaction mixture was evaporated to dryness under vacuum, added 25 ml water and extracted with ethyl acetate (3×25 ml). The combined organic layer was dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified over silica gel (100-200 M, 40% EtOAc-Hexane) to get the desired product (0.123 g, 30%).

reactant | 3-(2-(benzyloxy)-4-chlorophenyl)-5-(bromomethyl)-1,2,4-thiadiazole | 0.83 mmol, 0.33 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)C1=NSC(=N1)CBr | C16H12BrClN2OS
reactant | 2,6-difluoro-3-hydroxybenzamide | 0.75 mmol, 0.13 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 2.92 mmol, 0.403 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-((3-(2-(Benzyloxy)-4-chlorophenyl)-1,2,4-thiadiazol-5-yl)methoxy)-2,6-difluorobenzamide | 0.123 g, 30% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)Cl)C1=NSC(=N1)COC=1C(=C(C(=O)N)C(=CC1)F)F | C23H16ClF2N3O3S
